US08003651B2
Methyl 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate (133 g, 374 mmol) was dissolved in THF (1.0 L) and treated with KOTMS (56.0 g, 392 mmol) at room temperature. The mixture was allowed to stir overnight to completion by LCMS analysis of the crude. The mixture was concentrated in vacuo to afford a wet foam, which was allowed to dry under vacuum overnight to afford potassium 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate as a white solid (148.7 g, 105%). LC/MS (APCI+) m/z 242.1 [M-Boc-K]+.

reactant | Methyl 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate | 374 mmol, 133 g | C(C)(C)(C)OC(=O)N(CC(C(=O)OC)C1=CC=C(C=C1)Cl)C(C)C | C18H26ClNO4
reactant | KOTMS | 392 mmol, 56.0 g | O([K])[Si](C)(C)C
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | potassium 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate | 148.7 g, 105% | C(C)(C)(C)OC(=O)N(CC(C(=O)[O-])C1=CC=C(C=C1)Cl)C(C)C.[K+] | InChI=1S/C17H24ClNO4.K/c1-11(2)19(16(22)23-17(3,4)5)10-14(15(20)21)12-6-8-13(18)9-7-12;/h6-9,11,14H,10H2,1-5H3,(H,20,21);/q;+1/p-1
